US07202245B2
A solution of 250 mg of 2-chloro-5,6,7,8-tetrahydro-[1,6]naphthyridine (U.S. Pat. No. 6,169,093) in methylene chloride (6.1 mL) was treated with 0.148 mL of a 37% formalin solution, followed by 0.388 g of sodium triacetoxyborohydride. The reaction mixture was stirred at room temperature for 60 hrs. and quenched by the addition of 2N sodium hydroxide (6 mL). After stirring for 1 hr., the mixture was diluted with water and extracted with methylene chloride (2×). The organic layers were dried over sodium sulfate, filtered, and concentrated. Purification of the residue using silica gel chromatography provided N-methylchloronaphthyridine.

reactant | 2-chloro-5,6,7,8-tetrahydro-[1,6]naphthyridine | 250 mg | ClC1=NC=2CCNCC2C=C1 | C8H9ClN2
reactant | formalin | C=O | CH2O
reactant | sodium triacetoxyborohydride | 0.388 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | methylene chloride | 6.1 mL | C(Cl)Cl | CH2Cl2
product | N-methylchloronaphthyridine | CN1C(C=CC2=CC=CN=C12)Cl | C9H9ClN2
